US05922771
N-[2-(2-Benzyl-5-methoxy-1H-inden-3-yl)ethyl]acetamide
Starting with 2-(2-benzyl-5-methoxy-1H-inden-3-yl) ethylamine hydrochloride and acetyl chloride, the title compound was synthesized in otherwise the same manner as Example 8 (yield 94%).

reactant | 2-(2-benzyl-5-methoxy-1H-inden-3-yl) ethylamine hydrochloride | Cl.C(C1=CC=CC=C1)C=1CC2=CC=C(C=C2C1CCN)OC
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[2-(2-Benzyl-5-methoxy-1H-inden-3-yl)ethyl]acetamide | C(C1=CC=CC=C1)C=1CC2=CC=C(C=C2C1CCNC(C)=O)OC | C21H23NO2
